US07612075B2
To a solution of toluene/t-butanol (1:1) is added 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-piperazin-1-yl]-thioacetamide (180 mg, 0.45 mmol) and 3-bromo-cyclohexane-1,2-dione (135 mg, 0.80 mmol). The reaction is heated at 90° C. for 4 h and is then concentrated and crude product is dissolved in CH2Cl2 and washed with NaHCO3. The solution is concentrated and purified using 1% MeOH/EtOAc to provide 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-6,7-dihydro-5H-benzothiazol-4-one. 1H NMR (300 MHz, CDCl3) δ7.87-7.82 (m, 3H), 7.47 (dd, 1H), 4.80 (s, 2H), 3.91 (s, 2H), 3.61 (t, 2H), 3.43 (t, 2H), 3.05 (t, 2H), 2.65 (t, 2H), 2.24 (dt, 2H); MS (Ion Spray) 496 (M+H)+.

reactant | 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-piperazin-1-yl]-thioacetamide | 0.45 mmol, 180 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CCN(CC2)CC(=S)N)C1 | C14H16ClN3O2S3
reactant | 3-bromo-cyclohexane-1,2-dione | 0.80 mmol, 135 mg | BrC1C(C(CCC1)=O)=O | C6H7BrO2
reactant | toluene t-butanol | C1(=CC=CC=C1)C.C(C)(C)(C)O
product | 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-6,7-dihydro-5H-benzothiazol-4-one | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC=2SC3=C(N2)C(CCC3)=O)=O)C1 | C20H18ClN3O4S3
